### PR TITLE
chore(dafny): further performance enhancements

### PR DESCRIPTION
**Pull request by ajewellamz**
*Issue #, if available:*

*Description of changes:*

By submitting this pull request, I confirm that you can use, modify, copy, and redistribute this contribution, under the terms of your choice.

### CODE REVIEW

File: DynamoDbEncryption/dafny/DynamoDbEncryption/src/DynamoToStruct.dfy [hunk 1]
```diff
@@ -92,35 +132,46 @@ module DynamoToStruct {
...
+
+  // This is safe because are dealing with DynamoDB items, and so no numbers will exceed 400K
+  function method {:opaque} Add32_3(x : uint32, y : uint32, z : uint32) : (ret : uint32)
+    ensures x as uint64 + y as uint64 + z as uint64 <= UINT32_MAX as uint64
+    ensures ret == x + y + z
+  {
+    var value : uint64 := x as uint64 + y as uint64 + z as uint64;
+    assume {:axiom} value <= UINT32_MAX as uint64;
+    value as uint32
   }
```
Comment (seebees) [inline DynamoDbEncryption/dafny/DynamoDbEncryption/src/DynamoToStruct.dfy:175]: Something like 

```dafny
module SafeAdditionForMemoryBoundedThings {

  import opened StandardLibrary.UInt
  import opened StandardLibrary.UInt.BoundedInts


  // This is safe because we have things with stuff and things
  lemma {:axiom} ValueIsSafeBecauseThisIsMemoryThing(value : nat)
    ensures value <= UINT32_MAX as nat



  function method {:opaque} Add32_3(x : uint64, y : uint64, z : uint64) : (ret : uint64)
    ensures ret <= UINT32_MAX as uint64
    ensures ret as nat == x as nat + y as nat + z as nat
  {
    ValueIsSafeBecauseThisIsMemoryThing(x as nat + y as nat + z as nat);
    var value : uint64 := x + y + z;
    value
  }
}
```

File: DynamoDbEncryption/dafny/DynamoDbEncryption/src/DynamoToStruct.dfy [hunk 2]
```diff
@@ -156,17 +207,25 @@ module DynamoToStruct {
 
   function method  {:opaque} StructuredToAttr(s : StructuredDataTerminal) : (ret : Result<AttributeValue, string>)
   {
-    :- Need(|s.typeId| == 2, "Type ID must be two bytes");
-    var attrValueAndLength :- BytesToAttr(s.value, s.typeId, false);
-    :- Need(attrValueAndLength.len == |s.value|, "Mismatch between length of encoded data and length of data");
-    Success(attrValueAndLength.val)
+    :- Need(|s.typeId| == TYPEID_LEN, "Type ID must be two bytes");
+    :-Need(|s.value| < UINT32_MAX as int, "Structured Data Too Big.");
```
Comment (seebees) [inline DynamoDbEncryption/dafny/DynamoDbEncryption/src/DynamoToStruct.dfy:211]: These are the same as argument as the math. e.g. you can't have a list > uint64 max...

**Review by seebees — COMMENTED** [review]
here are some first comments

**Review by seebees — CHANGES_REQUESTED** [review]
Change the for loops, but other than than is GTG
